### ISSUE TITLE
HexBerlekamp.Factor: prove product preservation for berlekampFactor

### ISSUE THREAD

**Issue by kim-em** [kim-em/hex-dev#2621]
## Current state

`HexBerlekamp/Factor.lean` defines the executable Berlekamp split-step
factorisation driver `berlekampFactor` (line 103) on top of
`berlekampFactorLoop` (line 90), `splitFirstFactor?` (line 74),
`splitWithWitnesses?` (line 66), and `kernelWitnessSplit?` (line 62).
The single-split product invariant
`kernelWitnessSplit_product_spec`
(line 217: `r.factor * r.cofactor = f`) is already proved, and so is the
non-triviality invariant `kernelWitnessSplit_nontrivial` (line 228) and
the auxiliary `splitFactorAt_mul_div_eq` (line 113).

The remaining residual sorry in `HexBerlekamp/Factor.lean` is the
top-level theorem on line 238:

```lean
theorem prod_berlekampFactor
    (f : FpPoly p) (hmonic : DensePoly.Monic f)
    [Lean.Grind.Field (ZMod64 p)]
    (_hsquareFree : DensePoly.gcd f (DensePoly.derivative f) = 1) :
    (berlekampFactor f hmonic).product = f := by
  sorry
```

This is a Phase 5 implementation-loop obligation for `HexBerlekamp` that
does not depend on the BHKS HO-1 pipeline or any in-flight work; the
needed split-step invariants are already proved in the same file.

## Deliverables

1. In `HexBerlekamp/Factor.lean`, prove `prod_berlekampFactor` so the
   sorry on line 243 is removed. Use the invariant that
   `factorProduct factors = f` is preserved by `splitFirstFactor?` (via
   `kernelWitnessSplit_product_spec`) and therefore by
   `berlekampFactorLoop`.

2. Add any private helper lemmas needed for the loop invariant — for
   example:
   - `factorProduct_splitFirstFactor?_eq` (or equivalent): if
     `splitFirstFactor? witnesses factors = some factors'`, then
     `factorProduct factors' = factorProduct factors`.
   - `factorProduct_berlekampFactorLoop_eq`: the loop preserves
     `factorProduct` for any fuel and any input list.

   Keep these helpers `private` unless an existing public surface needs
   them.

3. Do not change the theorem statement, the definitions, or any public
   API. Do not edit anything outside `HexBerlekamp/Factor.lean`. The
   `_hsquareFree` hypothesis is supplied for downstream proofs and need
   not be used by this theorem (the product equality holds regardless of
   square-freeness because every successful split satisfies
   `factor * cofactor = f`).

## Library placement

- File path: `HexBerlekamp/Factor.lean`.
- SPEC section: `SPEC/Libraries/hex-berlekamp.md` requires the executable
  Berlekamp factor driver to preserve the input as the product of its
  returned factors. This theorem discharges the top-level product
  obligation for `berlekampFactor` on monic square-free inputs.
- Q1: Mathlib-free executable proof; no Mathlib bridge needed because the
  statement and helpers all use `Hex.DensePoly` / `Hex.FpPoly`
  multiplication directly.
- Q2: not in Mathlib over `Hex.FpPoly`; the proof is a finite induction
  on fuel using already-proved split invariants.
- Q3: no new infrastructure needed.

## Context

`HexBerlekamp` is at Phase 5 (implementation work loop) per
`scripts/status.py`. This is the last theorem-level `sorry` in
`HexBerlekamp/Factor.lean`. Closing it shrinks the residual `sorry`
surface in `HexBerlekamp` and is a prerequisite for any future
correctness statement that consumes
`(berlekampFactor f hmonic).product = f`.

The proof structure to follow:

```
theorem factorProduct_splitWithWitnesses?_eq
    [ZMod64.PrimeModulus p]
    (f : FpPoly p) (witnesses : List (FpPoly p))
    {r : SplitResult p}
    (h : splitWithWitnesses? f witnesses = some r) :
    r.factor * r.cofactor = f := by
  induction witnesses with
  | nil => simp [splitWithWitnesses?] at h
  | cons w ws ih =>
    -- case split on `kernelWitnessSplit? f w`
    ...

theorem factorProduct_splitFirstFactor?_eq
    [ZMod64.PrimeModulus p]
    (witnesses : List (FpPoly p))
    {factors factors' : List (FpPoly p)}
    (h : splitFirstFactor? witnesses factors = some factors') :
    factorProduct factors' = factorProduct factors := by
  induction factors with
  | nil => simp [splitFirstFactor?] at h
  | cons fac rest ih =>
    -- on a successful split, foldl1 on the new prefix uses
    -- `r.factor * r.cofactor = fac` and a fold-associativity helper

theorem factorProduct_berlekampFactorLoop_eq
    [ZMod64.PrimeModulus p]
    (witnesses : List (FpPoly p)) (fuel : Nat)
    (factors : List (FpPoly p)) :
    factorProduct (berlekampFactorLoop witnesses fuel factors)
      = factorProduct factors := by
  induction fuel generalizing factors with
  | zero => rfl
  | succ fuel ih => ...

theorem prod_berlekampFactor ...
    -- factorProduct [f] = f, then apply the loop preservation theorem
```

Use the existing `splitFactorAt_mul_div_eq` and
`kernelWitnessSplit_product_spec`. Note the existing `[ZMod64.PrimeModulus p]`
typeclass is needed for those lemmas; add it to helper lemma signatures
as required, and make sure the final theorem either has it in scope from
`Lean.Grind.Field (ZMod64 p)` or adds it explicitly.

## Verification

- `lake build HexBerlekamp.Factor`
- `python3 scripts/check_dag.py`
- `git diff --check`
- `rg -n '^axiom\b|native_decide|TODO|FIXME|\bsorry\b' HexBerlekamp/Factor.lean`
  reports no matches.

## Out of scope

- Editing `SPEC/`, top-level `PLAN.md`, or top-level `AGENTS.md`.
- Touching `HexBerlekamp/DistinctDegree.lean` (its remaining sorries on
  lines 168 and 180 are separate Phase 5 obligations).
- Any change to `berlekampFactor`, `berlekampFactorLoop`, or other
  executable definitions.
- Any cross-library refactor or Mathlib bridge work.

**Comment by kim-em** [comment]
Session: `37900748-1e88-482a-b129-9d297ec34738` Branch: `agent/37900748`

**Comment by kim-em** [comment]
Claimed by session `ca801968-e3ee-46b9-92ae-c5adccd9e6ca` on branch `agent/ca801968`
